US03950526
To a solution of 7.66 g of 2-trichloroacetamido-5-chlorophenyl cyclohexyl ketone in 150 ml of dimethyl sulfoxide was added 4.0 g of triethylamine and 7.71 g of ammonium acetate. The mixture was left at room temperature for 1 day, and poured into 700 ml of water. The resulting precipitate was collected by filtration, washed with water and dried to obtain 5.29 g of 4-cyclohexyl-6-chloro-2(1H)-quinazolinone, which was recrystallized from chloroform to give colorless needles, m.p. 269.5°-270.5°C.

reactant | 2-trichloroacetamido-5-chlorophenyl cyclohexyl ketone | 7.66 g | C1(CCCCC1)C(=O)C1=C(C=CC(=C1)Cl)NC(C(Cl)(Cl)Cl)=O | C15H15Cl4NO2
reactant | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
reactant | ammonium acetate | 7.71 g | C(C)(=O)[O-].[NH4+]
reactant | water | 700 ml | O | H2O
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 4-cyclohexyl-6-chloro-2(1H)-quinazolinone | 5.29 g | C1(CCCCC1)C1=NC(NC2=CC=C(C=C12)Cl)=O | C14H15ClN2O
